US07456176B2
Synthesis of 4-{4-[7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-benzenesulfonyl}-piperidine-1-carboxylic acid benzyl ester
In a dry 25 mL round bottom flask, 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.132 g, 0.44 mmol, 1 equiv), 4-(4-bromo-benzenesulfonyl)-piperidine-1-carboxylic acid benzyl ester (0.232 g, 0.529 mmol, 1.2 equiv), Cesium carbonate (0.432 g, 1.33 mmol, 3 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene (0.051 g, 0.088 mmol, 0.2 equiv) and tris(dibenzylideneacetone) dipalladium (0.040 g, 0.044 mmol, 0.1 equiv) were combined. The reactants were flushed with argon, diluted with dioxane (12 mL) and outfitted with a reflux condenser. The reaction was heated to reflux for 18 hours, then cooled to room temperature and slowly diluted with water. The resulting precipitate was collected and dried yielding a yellow powder (0.271 g, 93% yield). MS (ESI+): m/z=658.2, LC retention time: 3.41 min.

reactant | 7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.44 mmol, 0.132 g, 1 equiv | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C15H13ClN4O
reactant | 4-(4-bromo-benzenesulfonyl)-piperidine-1-carboxylic acid benzyl ester | 0.529 mmol, 0.232 g, 1.2 equiv | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)Br | C19H20BrNO4S
reactant | Cesium carbonate | 1.33 mmol, 0.432 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene | 0.088 mmol, 0.051 g, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone) dipalladium | 0.044 mmol, 0.040 g, 0.1 equiv | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 4-{4-[7-(2-chloro-5-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-benzenesulfonyl}-piperidine-1-carboxylic acid benzyl ester | 0.271 g, 93% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)NC=1N=NC2=C(N1)C(=CC(=C2)C2=C(C=CC(=C2)OC)Cl)C | C34H32ClN5O5S
